US05521189
Preparation of 2-phenyl-4-(4-bromophenyl)-pyrimidine
Benzamidine hydrochloride (4.7 g, 0.03 mole) and 1-dimethylamino-3-dimethylimonio-1-(4-bromophenyl)-1-propene perchlorate are allowed to react as described above in Example 4 for the preparation of 2,4-Bis(4-bromophenyl)-pyrimidine. After work-up and recrystallization from CHCl3 :ethyl ether (1:3), 7.2 g (72%) of a white crystalline solid is obtained which melted at 107°-08° C. IR(KBr) 2925, 1597, 1562, 1540, 1427 cm-1. 1H-NMR:(CDCl3) 8.65 (d, 1H, j=5.3 Hz), 8.55-8.52 (m, 2H), 8.02 (d, 2H, j=8.3 Hz), 7.6 (d, 2H, j=8.8 Hz), 7.5-7.46 (m, 3H), 7.44 (d, 1H, j=5.3 Hz). 13C-NMR (CDCl3): 164.6, 162.5, 157.9, 137.6, 135.7, 132.1, 130.8, 128.6, 128.5, 128.2, 125.6, 114.1. MS m/e: 311 (M+).

reactant | Benzamidine hydrochloride | 0.03 mole, 4.7 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | 2,4-Bis(4-bromophenyl)-pyrimidine | BrC1=CC=C(C=C1)C1=NC=CC(=N1)C1=CC=C(C=C1)Br | C16H10Br2N2
product | 2-phenyl-4-(4-bromophenyl)-pyrimidine | 7.2 g, 72% | C1(=CC=CC=C1)C1=NC=CC(=N1)C1=CC=C(C=C1)Br | C16H11BrN2
